2126-01-15 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2126-1-14**] 01:39 PM
 EKG - At [**2126-1-14**] 02:30 PM
 BRONCHOSCOPY - At [**2126-1-14**] 04:30 PM
   Will go for CT chest this morning.
   No events overnight.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-1-14**] 04:30 PM
   Fentanyl - [**2126-1-14**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2126-1-14**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-15**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 66 (66 - 92) bpm
   BP: 117/46(66) {104/44(66) - 143/73(124)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    323 mL
                                                                     64 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                    103 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    285 mL
   Urine:
                                                                    780 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -457 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 693) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///39/
   Ve: 5.8 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclerae anicteric, MM mildly dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Limited air movement, prolonged exp phase, exp wheeze. No rales
   CV: Distant heart sounds, regular rate and rhythm, normal S1 + S2, no
   murmurs
   Abdomen:  soft, left sided flank tenderness to palpation,
   non-distended, bowel sounds present, no rebound tenderness or guarding,
   no organomegaly
   Ext: Warm, well perfused, 2+ pulses, trace to 1+ edema to shins, no
   clubbing, cyanosis
   Neuro: nonfocal, strength 5/5 bilaterally, DTR's 2+, some peripheral
   wasting.
   Labs / Radiology
   376 K/uL
   10.1 g/dL
   83 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.2 mEq/L
   20 mg/dL
   98 mEq/L
   141 mEq/L
   31.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
   WBC
   11.2
   11.8
   Hct
   31.6
   31.1
   Plt
   406
   376
   Cr
   1.0
   0.9
   Glucose
   112
   83
   Other labs: PT / PTT / INR:12.4/24.6/1.0, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   tracheomalacia, now with shortness of breath, transferred from NH for
   evaluation by IP.
   # Tracheomalacia-  Seen on bronch yesterday. Will go for Y- stent today
   after CT chest.
   - continue on CPAP/PS for now
   - suction
   - pulmonary toilet
   - MDI
   - prednisone chronically
   # Chronic Respiratory Failure s/p trach - patient usually without trach
   mask during the day and on rate at night (unclear if she tires during
   the day or if this is standard of care at NH). Currently on CPAP/PS as
   above.
   # CHF - patient does not receive her care here, so unclear what her EF
   is. Continue lasix and ACEI.
   # CAD - again, unclear what her cardiac history is - continue aspirin,
   ACEI, zocor, toprol XL.
   # Depression/Anxiety - continue effexor, seroquel, ativan prn.
   # Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   # Anemia - chronic. Continue iron.
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, ppi, bowel reg; check fingersticks
   while on steroids
   # Access: peripherals
   # Code: Full Code (already trached)
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-1-14**] 01:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-01-15 10:46:00 Physician Attending Progress Note
Chief Complaint: Resp distress, TBM
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2126-1-14**] 01:39 PM
 EKG - At [**2126-1-14**] 02:30 PM
 BRONCHOSCOPY - At [**2126-1-14**] 04:30 PM
   CT chest this am, for OR later today for Y stent placement and trach
   change.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2126-1-14**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2126-1-14**] 11:42 PM
   Lorazepam (Ativan) - [**2126-1-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-15**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 74 (66 - 92) bpm
   BP: 135/57(76) {78/44(59) - 143/73(124)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    323 mL
                                                                    106 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                    103 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    365 mL
   Urine:
                                                                    780 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -457 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 345 (340 - 693) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Bowel sounds present, no tenderness
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   376 K/uL
   83 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.2 mEq/L
   20 mg/dL
   98 mEq/L
   141 mEq/L
   31.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
   WBC
   11.2
   11.8
   Hct
   31.6
   31.1
   Plt
   406
   376
   Cr
   1.0
   0.9
   Glucose
   112
   83
   Other labs: PT / PTT / INR:12.4/24.6/1.0, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   now with shortness of breath and ? TBM based on OSH bronch. Patient
   stable at this time. Bronch here showed patent upper airways and
   significant posterior menbrane tenting into the lower end of the trach
   causing physiology similar to TBM.
   Resp: CT chest this am followed by OR for Y stent placement and trach
   change
   Continue chronic prednisone Rx and MDIs.
   CHF/CAD - Continue aspirin, ACEI, zocor, toprol XL and lasix.
    Depression/Anxiety - continue effexor, seroquel, ativan prn.
    Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control: riss
   Lines / Intubation:
   20 Gauge - [**2126-1-14**] 01:52 PM
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent:  45 min

2126-01-16 06:36:00 Physician Resident Progress Note
Chief Complaint: Tracheomalacia
   24 Hour Events:
 OR SENT - At [**2126-1-15**] 10:27 AM
 OR RECEIVED - At [**2126-1-15**] 01:00 PM
 BRONCHOSCOPY - At [**2126-1-15**] 04:45 PM
 FEVER - 101.9
F - [**2126-1-15**] 08:00 PM
   Pt underwent tracheal Y stent in OR yesterday. Post procedure pt c/o
   discomfort and underwent bronch to confirm stent placement. Spiked temp
   to 101.9. Urine Cx + with P. mirabilis
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-1-15**] 04:15 PM
   Morphine Sulfate - [**2126-1-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-16**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.9
C (98.4
   HR: 75 (58 - 105) bpm
   BP: 128/47(68) {78/24(47) - 208/76(93)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,275 mL
                                                                  1,819 mL
   PO:
             TF:
   IVF:
                                                                  1,275 mL
                                                                  1,819 mL
   Blood products:
   Total out:
                                                                  1,082 mL
                                                                    283 mL
   Urine:
                                                                  1,082 mL
                                                                    283 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    193 mL
                                                                  1,536 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 550) mL
   Vt (Spontaneous): 317 (317 - 518) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 4.6 L/min
   Physical Examination
   General: NAD
   HEENT: eomi, perrl, op clear, trach site clean
   Lungs: right sided wheezing, otherwise good air movement
   Heart: RRR
   Abd: marked ttp in left flank and abdomen, no rebound or guarding
   Ext: no e/c/c
   Labs / Radiology
   333 K/uL
   9.3 g/dL
   123 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   143 mEq/L
   28.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
   WBC
   11.2
   11.8
   9.2
   Hct
   31.6
   31.1
   28.8
   Plt
   [**Telephone/Fax (3) 4026**]
   Cr
   1.0
   0.9
   0.9
   Glucose
   112
   83
   123
   Other labs: PT / PTT / INR:12.4/24.6/1.0, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR [**1-15**] - FINDINGS: In comparison with the earlier study of
   this date, there is little
   change. Tracheostomy tube is in place. Probable bilateral basilar
   atelectatic change, more prominent on the left.
   Microbiology: [**2126-1-14**] 6:44 pm URINE      Source: Catheter.
      URINE CULTURE (Preliminary):
         PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
   Assessment and Plan
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   tracheomalacia, now with shortness of breath, transferred from NH for
   evaluation by IP.
   # Tracheomalacia-  Y stent placed yesterday. In good place on re-bronch
   during episode of dyspnea yesterday.
   - continue on CPAP/PS for now
   - suction
   - pulmonary toilet
   - MDI
   - prednisone chronically
   # L flank pain
 unclear etiology
 unremarkable UA but positive
   culture raises suspicion for pyelo. Will obtain a CT abd/pelvis to eval
   for pyelo/stranding or other intraabdominal pathology.
   # Fever
 likely related to stent placement vs. UTI, but given left
   flank pain, obtaining CT.
   # UTI
 on CTX for proteus; awaiting sensies.
   # Chronic Respiratory Failure s/p trach - patient usually without trach
   mask during the day and on rate at night (unclear if she tires during
   the day or if this is standard of care at NH). Currently on CPAP/PS as
   above.
   # CHF - patient does not receive her care here, so unclear what her EF
   is. Continue lasix and ACEI.
   # CAD - again, unclear what her cardiac history is - continue aspirin,
   ACEI, zocor, toprol XL.
    # Depression/Anxiety - continue effexor, seroquel, ativan prn.
   # Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   # Anemia - chronic. Continue iron.
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, ppi, bowel reg; check fingersticks
   while on steroids
   # Access: peripherals
   # Code: Full Code (already trached)
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-1-15**] 05:37 PM
   22 Gauge - [**2126-1-15**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-01-16 10:17:00 Physician Attending Progress Note
Chief Complaint: TBM
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2126-1-15**] 10:27 AM
 OR RECEIVED - At [**2126-1-15**] 01:00 PM
 BRONCHOSCOPY - At [**2126-1-15**] 04:45 PM
 FEVER - 101.9
F - [**2126-1-15**] 08:00 PM
   Rested on PS [**11-12**] overnight after Y stent and trach # 7 placement, due
   to agitation and SOB.
   Proteus in urine
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-16**] 08:50 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-1-15**] 04:15 PM
   Morphine Sulfate - [**2126-1-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-16**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (100.9
   HR: 76 (58 - 105) bpm
   BP: 130/55(72) {83/24(47) - 208/76(79)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,275 mL
                                                                  2,311 mL
   PO:
             TF:
   IVF:
                                                                  1,275 mL
                                                                  2,311 mL
   Blood products:
   Total out:
                                                                  1,082 mL
                                                                    398 mL
   Urine:
                                                                  1,082 mL
                                                                    398 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    193 mL
                                                                  1,913 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 550) mL
   Vt (Spontaneous): 250 (250 - 518) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Clear : Diminished: ) Wheeze on R,
   not on left
   Abdominal: Soft, Bowel sounds present, TTP LLQ with gaurding
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli,
   Labs / Radiology
   9.3 g/dL
   333 K/uL
   123 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   143 mEq/L
   28.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
   WBC
   11.2
   11.8
   9.2
   Hct
   31.6
   31.1
   28.8
   Plt
   [**Telephone/Fax (3) 4026**]
   Cr
   1.0
   0.9
   0.9
   Glucose
   112
   83
   123
   Other labs: PT / PTT / INR:12.4/24.6/1.0, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: bibasilar atelectasis a little more than yesterday
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   TBM s/p Y stent and trach change to 7.
   Resp: Comfortable on CPAP. Try TM this am. Continue chronic prednisone
   10 mg Rx and MDIs.
   Abd pain with fever overnight: UCx with proteus but UA neg. ? pyelo.
   Check CT [**Last Name (un) 42**], start iv ceftriaxone. [**Month (only) 11**] start po feeds today after CT
   [**Last Name (un) 42**].
   CHF/CAD - Continue aspirin, ACEI, zocor, toprol XL and lasix.
    Depression/Anxiety - continue effexor, seroquel, ativan prn.
   Chronic Pain - continue oxycontin and oxycodone prn and lidoderm patch.
   Rest per resident note
   ICU Care
   Nutrition: po
   Comments: npo
   Glycemic Control: riss
   Lines / Intubation:
   20 Gauge - [**2126-1-14**] 01:52 PM
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU -> back to NH if CT [**Last Name (un) 42**] wnl
   Total time spent:  45 min

2126-01-17 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 100.9 yesterday afternoon.  Blood cultures sent.
   CT ABD/Pelvis done to eval for pyelo, which showed no signs of
   pyelonephritis on prelim read.  But did show +biliary ductal
   dilatation.
   LFTs done and were normal.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-16**] 08:50 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-1-16**] 09:30 AM
   Lorazepam (Ativan) - [**2126-1-16**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2126-1-17**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-17**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.7
   HR: 88 (71 - 97) bpm
   BP: 127/62(78) {106/41(58) - 157/70(84)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,426 mL
                  PO:
                  TF:
   IVF:
                                                                  2,426 mL
   Blood products:
   Total out:
                                                                  2,228 mL
                                                                    182 mL
   Urine:
                                                                  2,228 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (240 - 452) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 5.4 L/min
   Physical Examination
   General: NAD, but fairly somnolent with difficulty opening her eyes
   HEENT: eomi, perrl, op clear, trach site clean
   Lungs: improved air movement with bibasilar rales
   Heart: RRR
   Abd: marked ttp in left flank and abdomen continues today, no rebound
   or guarding
   Ext: no e/c/c
   Labs / Radiology
   374 K/uL
   10.1 g/dL
   125 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.9 mEq/L
   9 mg/dL
   101 mEq/L
   142 mEq/L
   31.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
                             [**2126-1-17**]  04:40 AM
   WBC
   11.2
   11.8
   9.2
   10.6
   Hct
   31.6
   31.1
   28.8
   31.0
   Plt
   [**Telephone/Fax (3) 4045**]74
   Cr
   1.0
   0.9
   0.9
   0.7
   Glucose
   112
   83
   123
   125
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:15/28, Alk Phos / T
   Bili:92/0.3, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   MICRO:
[**2126-1-14**] 6:44 pm URINE      Source: Catheter.
                            **FINAL REPORT [**2126-1-16**]**
   URINE CULTURE (Final [**2126-1-16**]):
      PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PROTEUS MIRABILIS
                             |
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------   <=1 S
CIPROFLOXACIN---------     2 I
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----     4 R
[**2126-1-16**] 4:45 pm BLOOD CULTURE      Source: Venipuncture.
   Blood Culture, Routine (Pending):
   IMAGING:
   CT ABD/Pelvis [**2126-1-17**]:
   PFI: No evidence of pyelonephritis.
   Mild intra- or extra-hepatic biliary ductal dilation. Correlation with
   LFTs
   is recommended.
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   tracheomalacia, now with shortness of breath, transferred from NH for
   evaluation by IP.
   .
   # Altered Mental Status- infection vs. CO2 retention. Sources include
   urine, bowel. LFT
s wnl but ductal dilation seen on CT abd/pelvis. No
   evidence of pyelo but CT.
   -          check ABG
   -          hold sedating meds and oxycontin for now
   -          follow cultures, obtain abd u/s
   # Tracheomalacia-  Y stent placed [**2126-1-15**].
   - continue on CPAP/PS for now
   - suction
   - pulmonary toilet
   - MDI
   - prednisone chronically
   # L flank pain
 unclear etiology
 unremarkable UA but positive
   culture raises suspicion for pyelo. CT abd/pelvis showed no evidence of
   pyelo or cholecystitis and LFT
s negative. Obtaining abd u/s.
   # UTI
 on CTX
 switch to cefpodoxime for proteus.
   # Chronic Respiratory Failure s/p trach - patient usually without trach
   mask during the day and on rate at night (unclear if she tires during
   the day or if this is standard of care at NH). Currently on CPAP/PS as
   above.
   # CHF - patient does not receive her care here, so unclear what her EF
   is. Continue lasix and ACEI.
   # CAD - again, unclear what her cardiac history is - continue aspirin,
   ACEI, zocor, toprol XL.
    # Depression/Anxiety - continue effexor, holding seroquel until mental
   status improves.
   # Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   # Anemia - chronic. Continue iron.
   # FEN: No IVF, replete electrolytes, NPO for now advance as tolerated
   # Prophylaxis: Subcutaneous heparin, ppi, bowel reg; check fingersticks
   while on steroids
   # Access: peripherals
   # Code: Full Code (already trached)
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-1-16**] 11:56 AM
   22 Gauge - [**2126-1-16**] 11:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-01-17 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-1-16**] 04:55 PM for T 100.9
   CT [**Last Name (un) 42**]/pelvis: no pyelo, biliary ductal dilatation, LFTs wnl, started
   on ceftriaxone for proteus UTI. Tried TM x 2 yesterday, on CPAP
   overnight.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-17**] 08:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-1-16**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2126-1-17**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-17**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 76 (71 - 97) bpm
   BP: 111/43(57) {106/41(57) - 157/82(90)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,426 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  2,426 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,228 mL
                                                                    236 mL
   Urine:
                                                                  2,228 mL
                                                                    236 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (240 - 610) mL
   PS : 12 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, very somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Clear : Diminished: ) Diminished air
   movt throughout
   Abdominal: Soft, Bowel sounds present, TTP with gaurding over entire
   abdomen
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Somnolent
   Labs / Radiology
   10.1 g/dL
   374 K/uL
   125 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.9 mEq/L
   9 mg/dL
   101 mEq/L
   142 mEq/L
   31.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
                             [**2126-1-17**]  04:40 AM
   WBC
   11.2
   11.8
   9.2
   10.6
   Hct
   31.6
   31.1
   28.8
   31.0
   Plt
   [**Telephone/Fax (3) 4045**]74
   Cr
   1.0
   0.9
   0.9
   0.7
   Glucose
   112
   83
   123
   125
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:15/28, Alk Phos / T
   Bili:92/0.3, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Microbiology: u Cx: proteus
   Blood cx: pend
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   TBM s/p Y stent and trach change to 7. Has tolerated TM for a short
   time yesterday. Intermittent auto peep. On CPAP [**11-12**] otherwise. Very
   somnolent today. Still has severe abdominal pain on palpation with
   fever overnight.
   Resp: Comfortable on CPAP. Check ABG, then try TM again this am. Min
   vent = 5, may not be enough for her. Continue chronic prednisone 10 mg
   Rx and MDIs.
   Abd pain with fever overnight: no pyelo on CT, on ceftriaxone for
   proteus UTI, normal LFTS, check whole [**Last Name (un) 42**] US and check pancreatic
   enzymes
   CHF/CAD - Continue aspirin, ACEI, zocor, toprol XL and lasix.
    Depression/Anxiety - hold sedating meds
   Chronic Pain
 may need to hold pain meds till more awake
   Rest per resident note
   ICU Care
   Nutrition: po, cautious about aspiration
   Glycemic Control: riss
   Lines / Intubation:
   20 Gauge - [**2126-1-14**] 01:52 PM
   need better iv access
midline
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Total time spent:  45 min

2126-01-18 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was initially somnolent and then woke up, but was very
   disoriented yesterday. Oxycontin and seroquel were held.
   UOP dropped off
 given 500cc NS bolus x 2
   Abd u/s IMPRESSION:
   1. Tortuous and enlarged common duct. The distal common bile duct
   cannot be
   visualized. No intrahepatic biliary dilatation is seen. Because of the
   dilatation and tortuous nature of the common duct an MRCP or ERCP is
   recommended to evaluate the distal CBD and ampulla.
   2. No gallstones identified and no signs of cholecystitis.
   3. No hydronephrosis.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-17**] 08:20 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-1-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-1-18**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 74 (64 - 98) bpm
   BP: 135/62(79) {107/41(57) - 161/71(89)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    250 mL
                                                                  1,000 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                     50 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,279 mL
                                                                    109 mL
   Urine:
                                                                  1,279 mL
                                                                    109 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,029 mL
                                                                    891 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 476 (300 - 610) mL
   PS : 12 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 130
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/65/125/37/8
   Ve: 4.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: NAD, but fairly somnolent with difficulty opening her eyes
   HEENT: eomi, perrl, op clear, trach site clean
   Lungs: improved air movement with bibasilar rales
   Heart: RRR
   Abd: marked ttp in left flank and abdomen continues today, no rebound
   or guarding
   Ext: no e/c/c
   Labs / Radiology
   295 K/uL
   9.3 g/dL
   103 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.7 mEq/L
   7 mg/dL
   102 mEq/L
   143 mEq/L
   28.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
                             [**2126-1-17**]  04:40 AM
                             [**2126-1-17**]  10:58 AM
                             [**2126-1-18**]  03:33 AM
   WBC
   11.2
   11.8
   9.2
   10.6
   7.6
   Hct
   31.6
   31.1
   28.8
   31.0
   28.8
   Plt
   [**Telephone/Fax (3) 4045**]74
   295
   Cr
   1.0
   0.9
   0.9
   0.7
   0.7
   TCO2
   38
   Glucose
   112
   83
   123
   125
   103
   Other labs: PT / PTT / INR:12.8/28.9/1.1, ALT / AST:15/28, Alk Phos / T
   Bili:92/0.3, Amylase / Lipase:140/14, Lactic Acid:0.9 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: Abd U/S - IMPRESSION:
   1. Tortuous and enlarged common duct. The distal common bile duct
   cannot be visualized. No intrahepatic biliary dilatation is seen.
   Because of the dilatation and tortuous nature of the common duct an
   MRCP or ERCP is
   recommended to evaluate the distal CBD and ampulla.
   2. No gallstones identified and no signs of cholecystitis.
   3. No hydronephrosis.
   Microbiology: URINE CULTURE (Final [**2126-1-16**]):
         PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PROTEUS MIRABILIS
                                |
   AMPICILLIN------------   <=2 S
   AMPICILLIN/SULBACTAM--   <=2 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------   <=1 S
   CIPROFLOXACIN---------     2 I
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------   <=4 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----     4 R
   Assessment and Plan
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   tracheomalacia, now with shortness of breath, transferred from NH for
   evaluation by IP
   .
   # Altered Mental Status- infection vs. CO2 retention. Sources include
   urine, bowel. LFT
s wnl but ductal dilation seen on CT abd/pelvis. No
   evidence of pyelo but CT. Improved this pm
   -  ABG -  PCO2 65, oxygenating well
   -  hold sedating meds
   -  continue cefpodox for UTI
   # Tracheomalacia-  Y stent placed [**2126-1-15**].
   - continue on CPAP/PS for now
   - pulmonary toilet
   - MDI
   - prednisone chronically
    .
   # L flank pain
 unclear etiology
 unremarkable UA but positive
   culture raises suspicion for pyelo. CT abd/pelvis showed no evidence of
   pyelo or cholecystitis and LFT
s negative. ABD US with no evidence of
   acute process
   .
   # UTI
 on CTX
 switch to cefpodoxime for proteus.
   .
   # Chronic Respiratory Failure s/p trach - patient usually without trach
   mask during the day and on rate at night (unclear if she tires during
   the day or if this is standard of care at NH). Currently on CPAP/PS as
   above.
   .
   # CHF - patient does not receive her care here, so unclear what her EF
   is. Continue lasix and ACEI.
   .
   # CAD - again, unclear what her cardiac history is - continue aspirin,
   ACEI, zocor, toprol XL.
   .
    # Depression/Anxiety - continue effexor, holding seroquel until mental
   status improves.
   .
   # Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   .
   # Anemia - chronic. Continue iron.
   .
   # FEN: No IVF, replete electrolytes, advance as tolerated
   .
   # Prophylaxis: Subcutaneous heparin, ppi, bowel reg; check fingersticks
   while on steroids
   .
   # Access: peripherals
   .
   # Code: Full Code (already trached)
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-1-16**] 11:56 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-01-18 10:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Confusion yesterday, oxycodone and seoquel held
   Fluid bolus for decreased UO
   CT [**Last Name (un) 42**] and US showed enlarged GB, but nothing much else.
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-17**] 08:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-1-18**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-18**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 68 (64 - 98) bpm
   BP: 171/76(91) {107/39(60) - 171/76(91)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    250 mL
                                                                  1,000 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                     50 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,279 mL
                                                                    134 mL
   Urine:
                                                                  1,279 mL
                                                                    134 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,029 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (300 - 476) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 130
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.36/65/125/37/8
   Ve: 4.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Clear : Diminished: ) Diminished air
   movt throughout
   Abdominal: Soft, Bowel sounds present, no pain/gaurding today
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Somnolent
   Labs / Radiology
   9.3 g/dL
   295 K/uL
   103 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.7 mEq/L
   7 mg/dL
   102 mEq/L
   143 mEq/L
   28.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
                             [**2126-1-17**]  04:40 AM
                             [**2126-1-17**]  10:58 AM
                             [**2126-1-18**]  03:33 AM
   WBC
   11.2
   11.8
   9.2
   10.6
   7.6
   Hct
   31.6
   31.1
   28.8
   31.0
   28.8
   Plt
   [**Telephone/Fax (3) 4045**]74
   295
   Cr
   1.0
   0.9
   0.9
   0.7
   0.7
   TCO2
   38
   Glucose
   112
   83
   123
   125
   103
   Other labs: PT / PTT / INR:12.8/28.9/1.1, ALT / AST:15/28, Alk Phos / T
   Bili:92/0.3, Amylase / Lipase:140/14, Lactic Acid:0.9 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   TBM s/p Y stent and trach change to 7. Has tolerated TM for a short
   time yesterday.  On CPAP [**11-12**] otherwise. Somnolence appears to be at
   baseline.  Abd pain improved.
   Resp: Comfortable on CPAP. Try TM again this am. Continue chronic
   prednisone 10 mg Rx and MDIs.
   ID: Cefpodoxamine for proteus UTI x 7 days. abd pain improved.
   CHF/CAD - Continue aspirin, ACEI, zocor, toprol XL and lasix.
   HTN:  advance meds as tolerated
   Depression/Anxiety - hold sedating meds for somnolence which appears to
   be at baseline per report
   Chronic Pain
 hold pain meds till more awake
   Rest per resident note
   ICU Care
   Nutrition: po, cautious about aspiration
   Glycemic Control: riss
   Lines / Intubation:
   20 Gauge - [**2126-1-14**] 01:52 PM
   need better iv access
midline
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: back to NH
   Total time spent:  45 min

2126-01-19 07:44:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure/Tracheomalacia
   24 Hour Events:
   Pt found to have question of pneumomediastinum on CXR. Underwent CT
   Chest for further evaluation which was negative.
   Mental Status improved last pm, taking pills and food
   Allergies:
   Tetanus Diphtheria (Intramusc) (Tetanus And Diphtheria Toxo
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-1-17**] 08:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-1-18**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-19**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 70 (65 - 97) bpm
   BP: 160/79(97) {138/57(75) - 182/103(113)} mmHg
   RR: 21 (10 - 23) insp/[**Year (4 digits) **]
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,560 mL
                  PO:
                                                                    560 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,414 mL
                                                                    245 mL
   Urine:
                                                                  1,414 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 694 (235 - 694) mL
   PS : 12 cmH2O
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 4.1 L/[**Year (4 digits) **]
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   9.3 g/dL
   103 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.7 mEq/L
   7 mg/dL
   102 mEq/L
   143 mEq/L
   28.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-1-14**]  01:58 PM
                             [**2126-1-15**]  04:09 AM
                             [**2126-1-16**]  01:29 AM
                             [**2126-1-17**]  04:40 AM
                             [**2126-1-17**]  10:58 AM
                             [**2126-1-18**]  03:33 AM
   WBC
   11.2
   11.8
   9.2
   10.6
   7.6
   Hct
   31.6
   31.1
   28.8
   31.0
   28.8
   Plt
   [**Telephone/Fax (3) 4045**]74
   295
   Cr
   1.0
   0.9
   0.9
   0.7
   0.7
   TCO2
   38
   Glucose
   112
   83
   123
   125
   103
   Other labs: PT / PTT / INR:12.8/28.9/1.1, ALT / AST:15/28, Alk Phos / T
   Bili:92/0.3, Amylase / Lipase:140/14, Lactic Acid:0.9 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: [**1-18**] CT Chest - HISTORY: Tracheomalacia status post Y stent
   placement with concern for
   pneumomediastinum.
   COMPARISON: [**2126-1-15**].
   TECHNIQUE: MDCT axial images through the chest without IV contrast
   using lung
   algorithm protocol.
   Coronal and sagittal reformatted views were displayed.
   CT OF THE CHEST WITHOUT IV CONTRAST: Since prior study, there has been
   interval placement of Y-shaped tracheal stent. No other significant
   changes
   are noted. There is no evidence of pneumothorax, pneumomediastinum,
   pleural
   or pericardial effusion. Severe emphysema is again noted. There is no
   mediastinal, hilar, or axillary lymphadenopathy. Atelectasis in the
   right
   middle lobe are noted. Aortic calcifications at the arch. Tracheostomy
   tube
   is again seen. Bilateral dependent atelectasis in the lower lobes.
   This study is not designed for evaluation of the abdomen, however, the
   visualized portions of the upper abdomen demonstrate a ventral hernia
   containing a loop of bowel and unchaged since prior study.
   BONE WINDOWS: No suspicious lytic or sclerotic lesions are identified.
   IMPRESSION: Status post tracheal stent placement. No evidence of
   pneumomediastinum.
   .
   CXR [**1-18**] - HISTORY: Chronic respiratory failure. Rigid bronchoscopy
   with Y stent and
   tracheal tube change.
   IMPRESSION: Lung volumes remain low, and large band of atelectasis
   still
   crosses the left lower lung. Upper lungs clear. Tracheobronchial Y
   stent in
   place. [**Month (only) 11**] be new pneumomediastinum. No pneumothorax. No appreciable
   pleural effusion. Heart size normal.
   Assessment and Plan
   67 yo F with history of chronic respiratory failure s/p trach for COPD,
   tracheomalacia, now with shortness of breath, transferred from NH for
   evaluation by IP
   .
   # Altered Mental Status- infection vs. CO2 retention. Sources include
   urine, bowel. LFT
s wnl but ductal dilation seen on CT abd/pelvis. No
   evidence of pyelo but CT. Improved this pm
   -  ABG -  PCO2 65, oxygenating well
   -  hold sedating meds
   -  continue cefpodox for UTI
   # Tracheomalacia-  Y stent placed [**2126-1-15**].
   - continue on CPAP/PS for now
   - pulmonary toilet
   - MDI
   - prednisone chronically
    .
   # L flank pain
 unclear etiology
 unremarkable UA but positive
   culture raises suspicion for pyelo. CT abd/pelvis showed no evidence of
   pyelo or cholecystitis and LFT
s negative. ABD US with no evidence of
   acute process
   .
   # UTI
 on CTX
 switch to cefpodoxime for proteus.
   .
   # Chronic Respiratory Failure s/p trach - patient usually without trach
   mask during the day and on rate at night (unclear if she tires during
   the day or if this is standard of care at NH). Currently on CPAP/PS as
   above.
   .
   # CHF - patient does not receive her care here, so unclear what her EF
   is. Continue lasix and ACEI.
   .
   # CAD - again, unclear what her cardiac history is - continue aspirin,
   ACEI, zocor, toprol XL.
   .
    # Depression/Anxiety - continue effexor, holding seroquel until mental
   status improves.
   .
   # Chronic Pain - continue oxycontin and oxycodone prn and lidoderm
   patch.
   .
   # Anemia - chronic. Continue iron.
   .
   # FEN: No IVF, replete electrolytes, advance as tolerated
   .
   # Prophylaxis: Subcutaneous heparin, ppi, bowel reg; check fingersticks
   while on steroids
   .
   # Access: peripherals
   .
   # Code: Full Code (already trached)
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Comments: REG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2126-1-16**] 11:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 4084**] had a CT of chest that did not
   reveal PTX or pneumomediastinum
   Exam notable for elderly feamle with trach with diffuse exp wheezing to
   exam in all lung fields. Tm99.7 BP150/68 HR of 80 RR of [**7-15**] with sats
   of 94% on 30% FiO2 .
   Agree with plan to transfer back to rehab since there are no acute
   needs in ICU anymore. She will resume weaning on Trach collar at rehab
   during daytime and 'rest' at night. follow up will be with IP service.
   Remainder of plan as outlined above.
   Patient is chronically ill
   Total time: 15 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], M.D.